US06608227B1
Part B: Preparation of 8-[(4-fluorophenyl)methyl]-1,4-dioxaspiro[4.5]decane
To a stirring degassed solution of 8-[(4-fluorophenyl)methylene]-1,4-dioxaspiro[4.5]decane (18. 9 g, 76 mmol) and 10% palladium on carbon (3.8 g, Aldrich) in 500 mL of ethyl acetate was added 40 psi of hydrogen gas. The reaction was stirred for 2.5 h and then filtered through a pad of silica gel. The silica gel was washed with ethyl acetate (300 mL). The organic layers were combined and conc in vacuo to a colorless oil yielding 18.0 g. MS (ESI) 253 (M+H).

reactant | 8-[(4-fluorophenyl)methylene]-1,4-dioxaspiro[4.5]decane | 76 mmol, 9 g | FC1=CC=C(C=C1)C=C1CCC2(OCCO2)CC1 | C15H17FO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 3.8 g | [Pd] | Pd
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 8-[(4-fluorophenyl)methyl]-1,4-dioxaspiro[4.5]decane | FC1=CC=C(C=C1)CC1CCC2(OCCO2)CC1 | C15H19FO2
